US06875884B1
To a solution of 4[[2-hydroxy-(3-phthalimido)propyl](1,2,3,4-tetrahydro-1-naphthyl)amino]butanoic acid (68 mg, 0.16 mmol) in EtOH (1 ml) was added hydrazine monohydrate (38 μl, 0.78 mmol), and the mixture was stirred at RT for 3 h. The reaction mixture was concentrated under vacuum to dryness, and the residue was suspended in CH2Cl2 (2 ml). To the suspension was added 4-bromophenyl isocyanate (47 mg, 0.24 mmol), and the mixture was stirred at RT for 40 h. The reaction mixture was adsorbed on a plate of silica gel and then developed with 10% methanol/chloroform to afford 4-[[3-(4-bromophenylureido)2-hydroxypropyl](1,2,3,4-tetrahydro-1-naphthyl)amino]butanoic acid (13 mg, 16%): MS(ES+) m/e 504 [M+H]+; 1H NMR (400 MHz, DMSO-d6) δ 8.74 (s, 1H), 8.07 (br, 2H), 7.62 (d, J=7.6 Hz, 1H), 7.36 (m, 4H), 7.13-7.00 (m, 3H), 6.15 (m, 1H), 3.92 (m, 1H), 3.66-3.45 (m, 3H), 2.70 (m, 1H), 2.67 (m, 2H), 2.51 (m, 2H), 2.36 (m, 2H), 2.25 (m, 1H), 2.14 (m, 1H), 2.02 (m, 1H), 1.19 (m, 1H), 1.67-1.49 (m, 3H).

reactant | 4[[2-hydroxy-(3-phthalimido)propyl](1,2,3,4-tetrahydro-1-naphthyl)amino]butanoic acid | 0.16 mmol, 68 mg | OC(CN(CCCC(=O)O)C1CCCC2=CC=CC=C12)CN1C(C=2C(C1=O)=CC=CC2)=O | C25H28N2O5
reactant | hydrazine monohydrate | 0.78 mmol, 38 μl | O.NN
reactant | 4-bromophenyl isocyanate | 0.24 mmol, 47 mg | BrC1=CC=C(C=C1)N=C=O | C7H4BrNO
reactant | methanol chloroform | CO.C(Cl)(Cl)Cl
solvent | EtOH | 1 ml | CCO | C2H6O
product | 4-[[3-(4-bromophenylureido)2-hydroxypropyl](1,2,3,4-tetrahydro-1-naphthyl)amino]butanoic acid | 13 mg, 16% | BrC1=CC=C(C=C1)NC(NCC(CN(CCCC(=O)O)C1CCCC2=CC=CC=C12)O)=O | C24H30BrN3O4
